US04904674
N-[[5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-1,3-dihydroxy-2-propanyl]acetamide
A stirred, chilled (-5° C.) suspension of ethyl 2-acetamido-3-[5-[2-(benzo[b]-thiophen-3-yl)ethenyl]thiophen-2-yl]-3-hydroxypropionate (4.0 g) and tetrahydrofuran (40 ml) was treated with lithium borohydride (5.8 ml of a 2.0M solution in tetrahydrofuran) over 3 mins. After stirring overnight at ambient temperature, the mixture was sequentially quenched with methanol (5 ml), water (20 ml), and 10% hydrochloric acid (5 ml). The organic solvent was removed in vacuo, and the aqueous phase was basified with 10% sodium hydroxide solution and extracted with dichloromethane and ether. The combined dried over anhydrous sodium sulfate organic phase was filtered and evaporated. The residue was purified by high performance liquid chromatography (silica gel, sample loaded in dichloromethane, eluted with 10% methanol in dichloromethane). The appropriate fractions were combined and evaporated to yield 2.23 g (62%) of product, mp 144°-145° C.

reactant | ethyl 2-acetamido-3-[5-[2-(benzo[b]-thiophen-3-yl)ethenyl]thiophen-2-yl]-3-hydroxypropionate | 4.0 g | C(C)(=O)NC(C(=O)OCC)C(O)C=1SC(=CC1)C=CC=1C2=C(SC1)C=CC=C2 | C21H21NO4S2
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-[[5-[2-(Benzo[b]thiophen-3-yl)ethenyl]thiophen-2-yl]-1,3-dihydroxy-2-propanyl]acetamide | 2.23 g, 62% | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(C(CO)NC(C)=O)O)C=CC=C2 | C19H19NO3S2
